Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[C:7]([H:8])[O:9][H:10].[H:1][O:2][C:3]=[C:4]([H:5])[H:6]>>[H:1][O:2][C:3][C:4]([H:5])([H:6])[C:7]([H:8])[O:9][H:10],-1.99165799764
[H:1][C:2]=[C:3]([H:4])[O:5][C:6][C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13]>>[H:13].[H:1][C:2]=[C:3]([H:4])[O:5][C:6][C:7]([H:8])([H:9])[C:10]([H:11])[H:12],4.54979308649
[O:1][O:2][C:3][H:4]>>[C:3][H:4].[O:1]=[O:2],3.41912391
[H:9].[O:1]=[C:2]=[C:3]([H:4])[O:5][C:6]#[C:7][H:8]>>[O:1]=[C:2]=[C:3]([H:4])[O:5][C:6]=[C:7]([H:8])[H:9],-2.41850204656
[C:2]=[C:3]([C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([H:10])[C:11]([H:12])[H:13].[O:1]>>[O:1]=[C:2]=[C:3]([C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([H:10])[C:11]([H:12])[H:13],-7.47305525834
[H:1][C:2]([H:3])=[C:4].[O:5][C:6]([H:7])([H:8])[C:9]([H:10])=[C:11]([H:12])[H:13]>>[H:1][C:2]([H:3])=[C:4][O:5][C:6]([H:7])([H:8])[C:9]([H:10])=[C:11]([H:12])[H:13],-3.39901468816
[H:1][O:2]/[C:3](=[C:4](/[H:5])[O:6][C:7]([H:8])[H:9])[C:10]([H:11])([H:12])[H:13]>>[H:1][O:2][C:3](=[C:4][H:5])[C:10]([H:11])([H:12])[H:13].[O:6]=[C:7]([H:8])[H:9],1.32876291869
[C:9]([H:10])=[C:11]([H:12])[C:13]([H:14])([H:15])[H:16].[H:1][C:2]([H:3])=[C:4]([H:5])[C:6]([H:7])[H:8]>>[H:1][C:2]([H:3])=[C:4]([H:5])[C:6]([H:7])([H:8])/[C:9]([H:10])=[C:11](\[H:12])[C:13]([H:14])([H:15])[H:16],-4.5913260198
[C:1][C:2][O:3].[C:4]([H:5])#[C:6][C:7]([H:8])[H:9]>>[C:1]#[C:2][O:3][C:4]([H:5])=[C:6]=[C:7]([H:8])[H:9],-0.636468230189
[C:3]=[C:4]([C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[H:12].[H:1][C:2][C:13]([H:14])([H:15])[H:16]>>[H:1][C:2](=[C:3]=[C:4]([C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16],-7.29343025128
[O:1]=[C:2]([H:3])[C:4][O:5][C:6][C:7]([H:8])([H:9])[H:10]>>[H:3].[O:1]=[C:2]=[C:4][O:5][C:6][C:7]([H:8])([H:9])[H:10],2.34609932603
[C:1][C:2]([H:3])([H:4])/[C:5]([H:6])=[C:7](\[H:8])[C:9](=[O:10])[H:11].[H:12]>>[C:1][C:2]([H:3])([H:4])/[C:5]([H:6])=[C:7](\[H:8])[C:9]([O:10])([H:11])[H:12],0.805716138984
[C:1].[C:2]([H:3])([H:4])[O:5][C:6]([H:7])([H:8])[C:9]([C:10])([H:11])[H:12]>>[C:1][C:2]([H:3])([H:4])[O:5][C:6]([H:7])([H:8])[C:9]([C:10])([H:11])[H:12],-3.5801091586300005
[C:3](#[C:4][H:5])[C:6]([H:7])([H:8])[O:9][O:10][H:11].[H:1][C:2]>>[H:1][C:2][C:3](=[C:4][H:5])[C:6]([H:7])([H:8])[O:9][O:10][H:11],-3.0041150567900003
[H:1][O:2][C:3]([H:4])([H:5])[C:6][C:7]([H:8])([H:9])[O:10][C:11]([H:12])[H:13]>>[H:1][O:2][C:3]([H:4])([H:5])/[C:6]=[C:7](\[H:8])[O:10][C:11]([H:12])[H:13].[H:9],2.37833529638
[C:6]([H:7])#[C:8][C:9]([H:10])([H:11])[H:12].[H:1][O:2][C:3]([H:4])[H:5]>>[H:1][O:2][C:3]([H:4])([H:5])/[C:6]([H:7])=[C:8]/[C:9]([H:10])([H:11])[H:12],-1.12728072255
[H:1][C:2]=[C:3]([O:4][H:5])[O:6][C:7]#[C:8][H:9]>>[H:1][C:2]=[C:3]([O:4][H:5])[O:6][C:7]#[C:8].[H:9],5.619550383069999
[C:9]([H:10])[H:11].[H:1][C:2]=[C:3]([O:4][H:5])[C:6]([H:7])=[O:8]>>[H:1][C:2]/[C:3]([O:4][H:5])=[C:6](\[H:7])[O:8][C:9]([H:10])[H:11],-2.43345270449
[H:11].[H:1][C:2]([H:3])[O:4][C:5][O:6][C:7]([H:8])=[C:9][H:10]>>[H:1][C:2]([H:3])[O:4][C:5][O:6][C:7]([H:8])=[C:9]([H:10])[H:11],-5.35022162034
[H:1][O:2][C@:3]1([H:4])[C:5]([H:6])([H:7])[C@@:8]1([H:9])[C:10]([H:11])[C:12]([H:13])([H:14])[H:15]>>[H:1][O:2][C:3]([H:4])[C:5]([H:6])([H:7])/[C:8]([H:9])=[C:10](\[H:11])[C:12]([H:13])([H:14])[H:15],-0.22162005513
[C:1]#[C:2][O:5][C:6]([H:7])[C:8]([H:9])([H:10])[H:11].[O:3][H:4]>>[C:1]=[C:2]([O:3][H:4])[O:5][C:6]([H:7])[C:8]([H:9])([H:10])[H:11],-4.1443227763
[C:2][C:6]#[C:7][C:8]([H:9])([H:10])[H:11].[H:1][C:5]#[C:3][H:4]>>[H:1][C:2]=[C:3]([H:4])[C:5][C:6]#[C:7][C:8]([H:9])([H:10])[H:11],-1.56796832861
[H:1][C:2].[O:3]=[C:4]([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12]>>[H:1][C:2][O:3][C:4]([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12],-2.91156245
[H:12].[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C@:7]([H:8])([C:9]([H:10])[H:11])[C:13]([H:14])([H:15])[H:16]>>[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])([C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16],-4.58518669166
[C:3][H:4].[O:1]=[C:2][C:5]([H:6])([H:7])[O:8][H:9]>>[O:1]=[C:2]([C:3][H:4])[C:5]([H:6])([H:7])[O:8][H:9],-5.36810879237
[C:2]([H:3])#[C:4][O:5][C:6]#[C:7][H:8].[O:1]>>[O:1]=[C:2]([H:3])[C:4][O:5][C:6]#[C:7][H:8],-3.34797901367
[H:7].[O:1]=[C:2]([H:3])[C:4]([H:5])[C:6]#[C:8][O:9][H:10]>>[O:1]=[C:2]([H:3])/[C:4]([H:5])=[C:6](\[H:7])[C:8][O:9][H:10],-2.73264193457
[H:1][O:2][C:3][O:4][C:5]([H:6])=[C:7]([H:8])[H:9]>>[H:1].[O:2]=[C:3][O:4][C:5]([H:6])=[C:7]([H:8])[H:9],2.65277304736
[C:8]([H:9])([H:10])[H:11].[H:1][C:2]([H:3])[C@@:4]([H:5])([O:6][O:7])[C:12]([H:13])([H:14])[H:15]>>[H:1][C:2]([H:3])[C@@:4]([H:5])([O:6][O:7][C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15],-2.83118622791
[H:1][C:2]([H:3])[C:4]([C:5][C:6]([H:7])([H:8])[H:9])([C:10]([H:11])([H:12])[H:13])[C:14]([H:15])([H:16])[H:17]>>[C:4](=[C:5][C:6]([H:7])([H:8])[H:9])([C:10]([H:11])([H:12])[H:13])[C:14]([H:15])([H:16])[H:17].[H:1][C:2][H:3],2.49926906072
